US08283354B2
(R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one (90 mg, 0.20 mmol) was dissolved in 1 mL CH2Cl2 and treated with 1 equivalent of 2.0 M HCl in ether (100 μL, 0.20 mmol). The formed precipitate was filtered and vacuum dried to obtain (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one hydrochloride. LC/MS: m/z 435.1 (M+H)+ at 2.84 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, CD3OD) δ 8.39-8.37 (m, 1H), 8.18 (d, J=8.6 Hz, 1H), 7.78 (s, 1H), 7.61-7.55 (m, 2H), 7.15-7.11 (m, 2H), 4.57 (dd, J=9.5, 3.5 Hz, 1H), 4.49-4.32 (m, 4H), 4.07-3.79 (m, 4H), 2.62 (s, 3H), 1.97-1.87 (m, 1H), 1.65-1.58 (m, 1H), 1.53-1.47 (m, 1H), 1.03-1.00 (m, 6H).

reactant | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one | 0.20 mmol, 90 mg | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)C | C25H30N4O3
reactant | HCl | 2.0 M, 1 equivalent | Cl | ClH
reactant | ether | 0.20 mmol, 100 μL | CCOCC | C4H10O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one hydrochloride | Cl.O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)C | InChI=1S/C25H30N4O3.ClH/c1-16(2)14-22(31)25(32)29-12-10-28(11-13-29)24-18-9-8-17(3)15-20(18)26-23(27-24)19-6-4-5-7-21(19)30;/h4-9,15-16,22,30-31H,10-14H2,1-3H3;1H/t22-;/m1./s1
